US04025558
1'-Acetamidospiro(cyclohexane-1,2'-indan)-4-ol methanesulfonate (isomer B)[28]
To an ice cold solution of 1.21 g. of 1'-acetamidospiro(cyclohexane-1,2'-indan)-4-ol (isomer B)[27] (prepared in Example 61B) in 12 ml. of pyridine, 1.2 ml. of methane sulfonyl chloride is added. After about 5 hours in the cold the mixture is poured into ice: water. The solid that precipitates is recrystallized from acetone: Skellysolve B to give 1.21 g. of 1'-acetamidospiro(cyclohexane-1,2'-indan-4-ol methanesulfonate (isomer B)[28], melting at 161° to 163° C.

reactant | 1'-acetamidospiro(cyclohexane-1,2'-indan)-4-ol | C(C)(=O)NC1C2(CC3=CC=CC=C13)CCC(CC2)O | C16H21NO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | O | H2O
product | 1'-Acetamidospiro(cyclohexane-1,2'-indan)-4-ol methanesulfonate | CS(=O)(=O)OC1CCC2(C(C3=CC=CC=C3C2)NC(C)=O)CC1 | C17H23NO4S
